US06794383B2
2-(3-pyridyl)-4H-1,3-benzothiazin-4-one (Compound 2)
Methyl thiosalicylate (1.8 g, 10.7 mM) and 3-cyanopyridine (1.1 g, 10.56 mM) were dissolved in toluene (5 ml), and then triethylamine (2 ml, 14.4 mM) was added thereto. After heating the mixture under reflux for 48 hours, the same processes as described in Reference Example 1 were performed to give the title compound as crystals (1.1 g, 43.4%).

reactant | Methyl thiosalicylate | 10.7 mM, 1.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 3-cyanopyridine | 10.56 mM, 1.1 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | triethylamine | 14.4 mM, 2 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-pyridyl)-4H-1,3-benzothiazin-4-one | 1.1 g, 43.4% | N1=CC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C13H8N2OS
